US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methylphenyl}-N′-(4-fluorophenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methyl-aniline (50 mg) was dissolved in chloroform (3 ml), and p-fluorophenyl isocyanate (22 μl ) was then added to the solution. The mixture was heated under reflux overnight. The precipitated crystal was collected by filtration and was washed to give 42 mg (yield 58%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methyl-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=C(C=C(N)C=C1)C | C17H17N3O3
reactant | p-fluorophenyl isocyanate | 22 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methylphenyl}-N′-(4-fluorophenyl)urea | 42 mg, yield 58% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)C | C24H21FN4O4
